data/polar.json
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:2]([O:15][C:25](=[O:10])[N:20]=[CH:12][c:8]1[cH:4][cH:17][cH:19][cH:18][cH:5]1)([CH3:21])([CH3:22])[CH3:23].[O-:1][C:16](=[CH:3][c:9]1[cH:13][cH:6][cH:26][cH:7][cH:14]1)[O:24][CH2:27][CH3:11]>>[O:1]=[C:16]([CH:3]([c:9]1[cH:13][cH:6][cH:26][cH:7][cH:14]1)[CH:12]([c:8]1[cH:4][cH:17][cH:19][cH:18][cH:5]1)[N:20]=[C:25]([O-:10])[O:15][C:2]([CH3:21])([CH3:22])[CH3:23])[O:24][CH2:27][CH3:11]", "epd": [["LP-/Pi+", [1], [16, 1]], ["Pi-/Sigma+", [3, 16], [3, 12]], ["Pi-/Pi+", [12, 20], [20, 25]], ["Pi-/LP+", [25, 10], [10]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:9]1[N+:15](=[CH:5][CH:31]=[CH:10][c:23]2[cH:6][cH:17][cH:4][cH:18][cH:7]2)[CH:14]([CH2:32][c:28]2[cH:36][cH:12][cH:19][cH:13][cH:37]2)[C:22](=[O:8])[N:29]1[CH3:21])([CH3:24])([CH3:25])[CH3:26].[cH:2]1[c:30]2[cH:27][cH:38][c:34]([S-:11])[cH:20][c:35]2[cH:16][cH:3][cH:33]1>>[C:1]([CH:9]1[N:15]([CH:5]=[CH:31][CH:10]([S:11][c:34]2[cH:20][c:35]3[cH:16][cH:3][cH:33][cH:2][c:30]3[cH:27][cH:38]2)[c:23]2[cH:6][cH:17][cH:4][cH:18][cH:7]2)[CH:14]([CH2:32][c:28]2[cH:36][cH:12][cH:19][cH:13][cH:37]2)[C:22](=[O:8])[N:29]1[CH3:21])([CH3:24])([CH3:25])[CH3:26]", "epd": [["LP-/Sigma+", [11], [11, 10]], ["Pi-/Pi+", [10, 31], [31, 5]], ["Pi-/LP+", [5, 15], [15]]]}
{"reaction_name": "Sandmeyer reaction", "rsmi": "[Cl-:8].[c:1]1([N+:9]#[N:7])[cH:3][cH:5][cH:2][cH:6][cH:4]1>>[N:7]#[N:9].[c:1]1([Cl:8])[cH:3][cH:5][cH:2][cH:6][cH:4]1", "epd": [["LP-/Sigma+", [8], [1, 8]], ["Sigma-/LP+", [1, 9], [9]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH:3]1=[CH:9][c:10]2[cH:15][cH:14][cH:22][cH:12][c:16]2[CH:23]1[Na:18].[O:1]=[S:6](=[O:2])([N:13]=[C:11]=[O:17])[c:20]1[cH:7][cH:4][c:19]([CH3:21])[cH:5][cH:8]1>>[Na+:18].[O:1]=[S:6](=[O:2])([N-:13][C:11](=[O:17])[CH:23]1[CH:3]=[CH:9][c:10]2[cH:15][cH:14][cH:22][cH:12][c:16]21)[c:20]1[cH:7][cH:4][c:19]([CH3:21])[cH:5][cH:8]1", "epd": [["Sigma-/Sigma+", [23, 18], [23, 11]], ["Pi-/LP+", [11, 13], [13]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[c:18]([CH:8]=[C:13]2[S:6][c:16]3[cH:14][cH:7][cH:9][cH:5][c:15]3[N:24]2[CH3:17])[cH:2][cH:22][cH:23][cH:21]1.[cH:3]1[cH:4][cH:12][cH:20][cH+:10][cH:19][cH:11]1>>[cH:1]1[c:18]([CH:8]([CH:10]2[CH:19]=[CH:11][CH:3]=[CH:4][CH:12]=[CH:20]2)[c:13]2[s:6][c:16]3[cH:14][cH:7][cH:9][cH:5][c:15]3[n+:24]2[CH3:17])[cH:2][cH:22][cH:23][cH:21]1", "epd": [["LP-/Pi+", [24], [13, 24]], ["Pi-/Sigma+", [8, 13], [8, 10]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[cH:1]1[cH:12][cH:16][cH:15][cH:4][c:23]1[P:8](=[O:19])([c:24]1[cH:2][cH:13][cH:17][cH:14][cH:3]1)[N:27]=[CH:7][c:20]1[cH:29][cH:21][cH:28][cH:22][cH:30]1.[cH:5]1[cH:9][c:10]2[c:31]([cH:18][cH:32]1)[CH:26]=[CH:6][CH:25]2[Li:11]>>[Li+:11].[cH:1]1[cH:12][cH:16][cH:15][cH:4][c:23]1[P:8]([O-:19])([c:24]1[cH:2][cH:13][cH:17][cH:14][cH:3]1)=[N:27][CH:7]([c:20]1[cH:29][cH:21][cH:28][cH:22][cH:30]1)[CH:25]1[CH:6]=[CH:26][c:31]2[c:10]1[cH:9][cH:5][cH:32][cH:18]2", "epd": [["Sigma-/Sigma+", [25, 11], [25, 7]], ["Pi-/Pi+", [7, 27], [27, 8]], ["Pi-/LP+", [8, 19], [19]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:17][cH:8][c:11]2[c:3]1[N+:25]([CH3:13])=[CH:16][C:14]2=[CH:12][c:22]1[cH:18][cH:26][cH:31][cH:27][cH:19]1.[cH:4]1[cH:10][cH:9][c:20]2[c:7]([cH:15]1)[CH2:30][CH:23]=[C:24]2[N:21]1[CH2:28][CH2:6][CH2:5][CH2:29]1>>[cH:1]1[cH:2][cH:17][cH:8][c:11]2[c:3]1[n:25]([CH3:13])[cH:16][c:14]2[CH:12]([c:22]1[cH:18][cH:26][cH:31][cH:27][cH:19]1)[CH:23]1[C:24](=[N+:21]2[CH2:28][CH2:6][CH2:5][CH2:29]2)[c:20]2[c:7]([cH:15][cH:4][cH:10][cH:9]2)[CH2:30]1", "epd": [["LP-/Pi+", [21], [24, 21]], ["Pi-/Sigma+", [23, 24], [23, 12]], ["Pi-/Pi+", [12, 14], [14, 16]], ["Pi-/LP+", [16, 25], [25]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:9]1[N+:18](=[CH:3][CH:49]=[CH:10][c:41]2[cH:6][cH:22][cH:2][cH:23][cH:7]2)[CH:17]([CH2:50][c:47]2[cH:51][cH:13][cH:32][cH:14][cH:52]2)[C:38](=[O:8])[N:48]1[CH3:37])([CH3:42])([CH3:43])[CH3:44].[CH2:4]1[N:21]2[CH2:5][CH2:27][N:12]([CH2:54][c:16]3[cH:29][cH:34][cH:46][cH:35][cH:30]3)[c:40]3[c:19]2[c:39]([cH:24][n:20][cH:25]3)[N:11]([CH2:53][c:15]2[cH:28][cH:33][cH:45][cH:36][cH:31]2)[CH2:26]1>>[C:1]([CH:9]1[N:18]([CH:3]=[CH:49][CH:10]([N:20]2[CH:24]=[C:39]3[N:11]([CH2:53][c:15]4[cH:28][cH:33][cH:45][cH:36][cH:31]4)[CH2:26][CH2:4][N+:21]4=[C:19]3[C:40](=[CH:25]2)[N:12]([CH2:54][c:16]2[cH:29][cH:34][cH:46][cH:35][cH:30]2)[CH2:27][CH2:5]4)[c:41]2[cH:6][cH:22][cH:2][cH:23][cH:7]2)[CH:17]([CH2:50][c:47]2[cH:51][cH:13][cH:32][cH:14][cH:52]2)[C:38](=[O:8])[N:48]1[CH3:37])([CH3:42])([CH3:43])[CH3:44]", "epd": [["LP-/Pi+", [21], [19, 21]], ["Pi-/Pi+", [39, 19], [24, 39]], ["Pi-/Sigma+", [20, 24], [20, 10]], ["Pi-/Pi+", [10, 49], [49, 3]], ["Pi-/LP+", [3, 18], [18]]]}
